US05382688
4,4-Diphenylcyclohexanone 54.0 g was dissolved with stirring in tetrahydrofuran 700 ml, which was purified dehydration, under nitrogen sealing and cooled with dry ice-acetone. Then, a solution 200 ml of n-butyl lithium (1.6 mole/liter) in hexane was added dropwise for two hours. Two hours after adding, the ice bath was removed and the mixture was slowly heated to room temperature for four hours. The finish of the reaction was confirmed by liquid chromatography, then a saturated ammonium chloride aqueous solution 300 ml was poured into the reaction solution and the mixture was extracted with toluene 700 ml. The solution was washed with an aqueous solution of sodium chloride and toluene was removed with a rotary evaporator. Then, the residue was dissolved in toluene 400 ml, an ion exchange resin (Amberlist 15E, manufactured by ORGANO Co, Ltd.) 2.8 g was mixed, and the mixture was heated under reflux for three hours. The ion exchange resin was filtered off, toluene was removed with a rotary evapotator, the residue was dissolved in toluene/heptane 1/4 (v/v) and the solution was purified with a silica gel column to obtain 4,4-diphenyl-1-butylcyclohexene (containing 4,4-diphenyl-1-butylidenecyclohexane) 32.97 g.

reactant | 4,4-Diphenylcyclohexanone | 54.0 g | C1(=CC=CC=C1)C1(CCC(CC1)=O)C1=CC=CC=C1 | C18H18O
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 4,4-diphenyl-1-butylcyclohexene | 32.97 g | C1(=CC=CC=C1)C1(CC=C(CC1)CCCC)C1=CC=CC=C1 | C22H26
